US08420661B2
2,3-Difluoro-5-iodopyridine (300 mg, 1.24 mmol) was dissolved in 2 ml toluene. (140 mg, 1.24 mmol, 1 equiv.) 4,4-Dimethylimidazolidin-2-one (CAS 24572-33-6) and cesium carbonate (650 mg, 1.99 mmol, 1.6 equiv.) were added and the mixture was heated to 100° C. for 4 hours. The reaction mixture was loaded directly onto a silica gel column and purified by flash chromatography eluting with an ethyl acetate:heptane gradient 0:100 to 100:0. The desired 1-(3-fluoro-5-iodo-pyridin-2-yl)-4,4-dimethyl-imidazolidin-2-one (205 mg, 49% yield) was obtained as a white solid, MS: m/e=336.1 (M+H+).

reactant | 2,3-Difluoro-5-iodopyridine | 1.24 mmol, 300 mg | FC1=NC=C(C=C1F)I | C5H2F2IN
reactant | 4,4-Dimethylimidazolidin-2-one | 1.24 mmol, 140 mg, 1 equiv. | CC1(NC(NC1)=O)C | C5H10N2O
reactant | cesium carbonate | 1.99 mmol, 650 mg, 1.6 equiv. | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(3-fluoro-5-iodo-pyridin-2-yl)-4,4-dimethyl-imidazolidin-2-one | 205 mg, 49% yield | FC=1C(=NC=C(C1)I)N1C(NC(C1)(C)C)=O | C10H11FIN3O
